US04438128
Diethyl methylmalonate and N,N'-dimethylhydrazine are heated under reflux for 170 hours in methanol in the presence of sodium methylate under an atmosphere of nitrogen. 3-Hydroxy-1,2,4-trimethyl-5-pyrazolone is obtained in the form of colorless crystals which, after recrystallization from ethyl acetate, melt at 87°-89° C.

reactant | Diethyl methylmalonate | CC(C(=O)OCC)C(=O)OCC | C8H14O4
reactant | N,N'-dimethylhydrazine | CNNC | C2H8N2
reactant | sodium methylate | C[O-].[Na+]
solvent | methanol | CO | CH4O
product | 3-Hydroxy-1,2,4-trimethyl-5-pyrazolone | OC=1N(N(C(C1C)=O)C)C | C6H10N2O2
